US08134007B2
2-Bromo-1-cyclopropoxy-4-fluoro-benzene
Diethyl zinc (1M in toluene, 23 ml, 23 mmol) was added under nitrogen with stirring to a solution of 2-bromo-4-fluoro-1-vinyloxy-benzene (Preparation 88, 1.0 g, 4.61 mmol) in dichloroethane (45 ml) at −10° C. (ice-salt-MeOH), taking care to maintain the temperature below 0° C. Diiodomethane (6.17 g, 23 mmol) in dichloroethane (10 ml) was then added via a syringe to the reaction mixture over 5 minutes ensuring that the reaction mixture remained at a temperature below +5° C. (internal temp). The reaction mixture was stirred at this temperature for twenty minutes and then allowed to attain room temperature and stirring was continued for 72 hours. The reaction was quenched with cold saturated ammonium chloride (aqueous solution) (5 ml) then the lower organic phase was removed, whilst the aqueous was extracted with a further dichloromethane (20 ml). The combined organic layers were dried over anhydrous Na2SO4 (s), filtered and evaporated in vacuo. Purification by column chromatography on silica gel eluting with tert-butyldimethyl ether:heptane 1:99 to 1:19 afforded almost pure title compound (93 mg, 9%).

reactant | Diethyl zinc | 23 mmol, 1M, 23 ml | C(C)[Zn]CC
reactant | 2-bromo-4-fluoro-1-vinyloxy-benzene | 4.61 mmol, 1.0 g | BrC1=C(C=CC(=C1)F)OC=C | C8H6BrFO
reactant | Diiodomethane | 23 mmol, 6.17 g | ICI | CH2I2
solvent | dichloroethane | 45 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | 2-Bromo-1-cyclopropoxy-4-fluoro-benzene | 93 mg, 9% | BrC1=C(C=CC(=C1)F)OC1CC1 | C9H8BrFO
